US08703810B2
To a solution of azocane (5.59 g, 49.4 mmol) and triethylamine (6.53 g, 64.7 mmol) in DCM (50 mL) at room temperature was added (2-bromoethoxy)(tert-butyl)dimethylsilane (13.0 g, 54.4 mmol). The mixture was stirred overnight, and the solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate, washed (brine (2×)), dried over Na2SO4 and filtered. The solvent was removed under reduced pressure, and the residue was purified on a silica gel column (eluting with PE/EA=10/1) to afford 1-(2-((tert-butyldimethylsilyl)oxy)ethyl)azocane (11.8 g, 88%). LCMS: 272 (M+H)+.

reactant | azocane | 49.4 mmol, 5.59 g | N1CCCCCCC1 | C7H15N
reactant | triethylamine | 64.7 mmol, 6.53 g | C(C)N(CC)CC | C6H15N
reactant | (2-bromoethoxy)(tert-butyl)dimethylsilane | 54.4 mmol, 13.0 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-((tert-butyldimethylsilyl)oxy)ethyl)azocane | 11.8 g, 88% | [Si](C)(C)(C(C)(C)C)OCCN1CCCCCCC1 | C15H33NOSi
